US08293897B2
Step 3) N-(5-(7-(4-oxaspiro[2.4]heptane-6-yloxy)quinolin-4-yloxy)pyridin-2-yl)-N-phenylcyclopropane-1,1-dicarboxamide
To a mixture of (4-oxaspiro[2.4]heptane-6-yl)methanesulfonate (168 mg, 0.877 mmol) and N-(5-(7-hydroxyquinolin-4-yloxy)pyridin-2-yl)-N-phenylcyclopropane-1,1-dicarboxamide (300 mg, 0.682 mmol) in 5 mL of N,N-dimethylacetamide was added cesium carbonate (893 mg, 2.74 mmol). After stirring at room temperature for 36 hrs, then the reaction mixture was warmed up to 40° C. for 8 hrs. The reaction mixture was concentrated in vacuo and the residue was chromatographed with a silica gel column (2:1 (v/v) EtOAc/n-hexane) to afford the title compound as a white solid (73 mg, 20%).

reactant | (4-oxaspiro[2.4]heptane-6-yl)methanesulfonate | 0.877 mmol, 168 mg | C1CC12OCC(C2)CS(=O)(=O)[O-]
reactant | N-(5-(7-hydroxyquinolin-4-yloxy)pyridin-2-yl)-N-phenylcyclopropane-1,1-dicarboxamide | 0.682 mmol, 300 mg | OC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)N(C(=O)C1(CC1)C(=O)N)C1=CC=CC=C1 | C25H20N4O4
reactant | cesium carbonate | 2.74 mmol, 893 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N-(5-(7-(4-oxaspiro[2.4]heptane-6-yloxy)quinolin-4-yloxy)pyridin-2-yl)-N-phenylcyclopropane-1,1-dicarboxamide | 73 mg, 20% | C1CC12OCC(C2)OC2=CC=C1C(=CC=NC1=C2)OC=2C=CC(=NC2)N(C(=O)C2(CC2)C(=O)N)C2=CC=CC=C2 | C31H28N4O5
